US07807709B2
A. (3S,4R)-3-(tert-Butyl-dimethyl-silanyloxymethyl)-4-({isopropyl-[1-(3-methoxy-propyl)-1H-indole-6-carbonyl]-amino}-methyl)-pyrrolidine-1-carboxylic acid tert-butyl ester
From (3S,4R)-3-(tert-butyl-dimethyl-silanyloxymethyl)-4-(isopropylamino-methyl)-pyrrolidine-1-carboxylic acid tert-butyl ester (5 g, 12.9 mmol), 1-(3-methoxy-propyl)-1H-indole-6-carboxylic acid (4.22 g, 18.1 mmol), BOPCI (4.6 g, 18.1 mmol) and triethylamine (7.2 mL, 51.7 mmol). TLC, Rf (AcOEt)=0.32.

reactant | (3S,4R)-3-(tert-butyl-dimethyl-silanyloxymethyl)-4-(isopropylamino-methyl)-pyrrolidine-1-carboxylic acid tert-butyl ester | 12.9 mmol, 5 g | C(C)(C)(C)OC(=O)N1C[C@H]([C@@H](C1)CNC(C)C)C(O[SiH2]C(C)(C)C)(C)C | C20H42N2O3Si
reactant | 1-(3-methoxy-propyl)-1H-indole-6-carboxylic acid | 18.1 mmol, 4.22 g | COCCCN1C=CC2=CC=C(C=C12)C(=O)O | C13H15NO3
reactant | triethylamine | 51.7 mmol, 7.2 mL | C(C)N(CC)CC | C6H15N
solvent | AcOEt | CCOC(=O)C | C4H8O2
product | (3S,4R)-3-(tert-Butyl-dimethyl-silanyloxymethyl)-4-({isopropyl-[1-(3-methoxy-propyl)-1H-indole-6-carbonyl]-amino}-methyl)-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C[C@H]([C@@H](C1)CN(C(=O)C1=CC=C2C=CN(C2=C1)CCCOC)C(C)C)C(O[SiH2]C(C)(C)C)(C)C | C33H55N3O5Si
